US07700655B2
(1) 4-Bromo-3-hydroxythiophene-2-carboxylic acid
A mixture of 4-bromothiophene-2-carboxylic acid methyl ester (500 mg, 2.1 mmol), sodium hydroxide (261 mg, 6.3 mmol) in a mixed solvent of methanol/water (2.5 mL+2.5 mL) was refluxed for 2 hours. After the reaction mixture was cooled to room temperature, 2N hydrochloric acid was added to adjust pH to 1, and it was diluted with ethyl acetate. After the ethyl acetate layer was washed successively with water and brine, dried over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure to give the title compound (326 mg, 69.4%) as a red brown powder.

reactant | 4-bromothiophene-2-carboxylic acid methyl ester | 2.1 mmol, 500 mg | COC(=O)C=1SC=C(C1)Br | C6H5BrO2S
reactant | sodium hydroxide | 6.3 mmol, 261 mg | [OH-].[Na+]
reactant | methanol water | 2.5 mL | CO.O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Bromo-3-hydroxythiophene-2-carboxylic acid | 326 mg, 69.4% | BrC=1C(=C(SC1)C(=O)O)O | C5H3BrO3S
